US07816354B2
2-Amino-1-(4-bromo-phenyl)-ethanol
Sodium borohydride (227 mg, 6.00 mmol) was dissolved in methanol (10 mL) and 5% potassium hydroxide in methanol (4.49 mL, 4.00 mmol) was carefully added. To this solution was added 2-Amino-1-(4-bromo-phenyl)-ethanone hydrochloride (1.0 g, 4.00 mmol) dissolved in methanol (10 mL) and stirring continued for 0.2 hours at room temperature. The mixture was concentrated, and quenched with saturated sodium bicarbonate (10 mL) and extracted with dichloromethane several times. The organics were combined, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The title compound was isolated as a yellow solid (677 mg, 77%). 1H NMR (300 MHz, CDCl3): 7.51-7.47 (d. 2H), 7.27-7.23 (d, 2H), 4.63-4.59 (m, 1H), 3.03 (dd, 1H), 2.76 (dd, 1H)

reactant | Sodium borohydride | 6.00 mmol, 227 mg | [BH4-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-Amino-1-(4-bromo-phenyl)-ethanone hydrochloride | 4.00 mmol, 1.0 g | Cl.NCC(=O)C1=CC=C(C=C1)Br
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 4.00 mmol, 4.49 mL | CO | CH4O
product | 2-Amino-1-(4-bromo-phenyl)-ethanol | NCC(O)C1=CC=C(C=C1)Br | C8H10BrNO
